US04006245
a. 3-Bromopropyl-2-n-butylphenyl ether
A solution of 30 parts of o-n-butylphenol in 150 parts of dry acetone was added dropwise over 5 hours to a stirred refluxing suspension of 80.8 parts of 1,3-dibromopropane, 27.6 parts of anydrous potassium carbonate and 0.5 parts of potassium iodide in 170 parts of dry acetone.

reactant | o-n-butylphenol | C(CCC)C1=C(C=CC=C1)O | C10H14O
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-Bromopropyl-2-n-butylphenyl ether | BrCCCC=1C(=C(C=CC1)OC1=C(C(=CC=C1)CCCBr)CCCC)CCCC | C26H36Br2O
